US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfonylpropyl]-3-chloro-4-[(2S)-2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]benzamide
Prepared analogously to Example 85 from N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfinylpropyl]-3-chloro-4-[(2S)-2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]benzamide and 2 equivalents of 3-chloroperoxybenzoic acid in dichloromethane/glacial acetic acid. Yield: 46%; Rf value: 0.38 (silica gel; dichloromethane/methanol=9:1); C29H35Cl2N5O6S (652.60); mass spectrum: (M+H)+=652/654/656 (chlorine isotope).

reactant | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfinylpropyl]-3-chloro-4-[(2S)-2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]benzamide | ClC1=CC2=C(NC(=N2)[C@H](CCS(=O)C)NC(C2=CC(=C(C=C2)C(=O)N2[C@@H](CCC2)CNC(=O)OC(C)(C)C)Cl)=O)C=C1 | C29H35Cl2N5O5S
reactant | 3-chloroperoxybenzoic acid | 2 equivalents | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | dichloromethane methanol | ClCCl.CO
reactant | chlorine | ClCl | Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfonylpropyl]-3-chloro-4-[(2S)-2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]benzamide | Yield: 46% | ClC1=CC2=C(NC(=N2)[C@H](CCS(=O)(=O)C)NC(C2=CC(=C(C=C2)C(=O)N2[C@@H](CCC2)CNC(=O)OC(C)(C)C)Cl)=O)C=C1 | C29H35Cl2N5O6S
